US04544400
Nitric acid (30 ml) is cooled to -5°, and N-methylcarbonyl 2,3-dichloroaniline (9.8 g, 48 mmol) is added to the acid in small portions, with the temperature maintained at -5° or lower. After the addition is complete, the reaction is stirred for 1 hour at +5°. The reaction is then added dropwise to about 150 g of ice-water mixture. The resulting solid is collected by filtration and purified by prep. TLC (developing with 30% ethyl acetate/hexane). The least polar component is isolated to give N-methylcarbonyl 2,3-dichloro-6-nitroaniline.

reactant | N-methylcarbonyl 2,3-dichloroaniline | 48 mmol, 9.8 g | CC(=O)NC1=C(C(=CC=C1)Cl)Cl | C8H7Cl2NO
reactant | Nitric acid | 30 ml | [N+](=O)(O)[O-] | HNO3
product | N-methylcarbonyl 2,3-dichloro-6-nitroaniline | CC(=O)NC1=C(C(=CC=C1[N+](=O)[O-])Cl)Cl | C8H6Cl2N2O3
